US04393228
To a solution of 2.5 g (0.0085 mole) of dicyclohexyl epoxysuccinate dissolved in 40 ml of cyclohexanol, a solution of 0.4 g of potassium hydroxide dissolved in 3 ml of methanol was added dropwise at room temperature. After the mixture had been stirred for 2 hours, to this, 300 ml of ethyl ether was added. Then, the mixture was allowed to stand overnight at about 5° C. The precipitate thus formed was filtered and recrystallized from ethanol-ether mixture to give cyclohexyl potassium epoxysuccinate (EP-2) as colorless needles. Yield 1.2 g (48%), m.p. 187°-189° C.

reactant | dicyclohexyl epoxysuccinate | 0.0085 mole, 2.5 g | O1C(C(=O)OC2CCCCC2)C1C(=O)OC1CCCCC1 | C16H24O5
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
reactant | ethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | cyclohexanol | 40 ml | C1(CCCCC1)O | C6H12O
solvent | methanol | 3 ml | CO | CH4O
product | cyclohexyl potassium epoxysuccinate | O1C(C(=O)O)C1C(=O)O.C1(CCCCC1)[K] | InChI=1S/C6H11.C4H4O5.K/c1-2-4-6-5-3-1;5-3(6)1-2(9-1)4(7)8;/h1H,2-6H2;1-2H,(H,5,6)(H,7,8);
